US09120749B2
1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one
1-(6-bromo-4-hydroxyquinolin-3-yl)butan-1-one (3.73 g, 12.7 mmol) was added to phosphoryl chloride (37 mL) and the reaction was stirred at 75° C. for 2 h. After this time the reaction mixture was cooled to room temperature and slowly poured into a solution of satd. aq. sodium carbonate that was cooled to 0° C. The resultant mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by column chromatography (silica, ethyl acetate) afforded the desired product (3.90 g, 98%) as an off-white solid. ESI MS m/z 312 [C13H13BrClNO+H]+

reactant | 1-(6-bromo-4-hydroxyquinolin-3-yl)butan-1-one | 12.7 mmol, 3.73 g | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)O | C13H12BrNO2
reactant | phosphoryl chloride | 37 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one | 3.90 g, 98% | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)Cl | C13H11BrClNO
